US08937071B2
A suspension of 4-chloro-3-(trifluoromethyl)aniline (20.14 mg, 0.103 mmol) in DMF (8 mL) was added to a solution of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid (30 mg, 0.103 mmol) in DMF (8 mL). HOBt (23.66 mg, 0.154 mmol), EDC (29.6 mg, 0.154 mmol) and Et3N (0.043 mL, 0.309 mmol) were added and the mixture was stirred at 50° C. for 8 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a white solid of N-(4-chloro-3-(trifluoro methyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (11.39 mg, 0.024 mmol, 23.6% yield). TLC (DCM/MeOH=10:1, Rf=0.6): 1H NMR (400 MHz, CD3OD) δ: 8.10 (s, 1H), 7.79 (d, J=8.82 Hz, 1H), 7.53 (d, J=8.82 Hz, 1H), 7.37-7.44 (m, 1H), 7.26-7.37 (m, 3H), 7.23 (d, J=1.98 Hz, 1H), 4.12 (q, J=7.06 Hz, 2H), 3.80 (s, 2H), 1.46 (t, J=6.95 Hz, 3H); ES-LCMS m/z 469.1 (M+H).

reactant | 4-chloro-3-(trifluoromethyl)aniline | 0.103 mmol, 20.14 mg | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid | 0.103 mmol, 30 mg | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)O)F | C15H14FNO4
reactant | HOBt | 0.154 mmol, 23.66 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.154 mmol, 29.6 mg
reactant | Et3N | 0.309 mmol, 0.043 mL | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(trifluoro methyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 0.024 mmol, 11.39 mg, 23.6% yield | ClC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F | C22H17ClF4N2O3
